US07625888B2
Step A: (2S,5R)-2,5-Dihydro-3,6-dimethoxy-2-isopropyl-5-(2,4,5-trifluorobenzyl)pyrazine
To a solution of 3.42 g (18.5 mmol) of commercially available (2S)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine in 100 mL of tetrahydrofuran at −70° C. was added 12 mL (19 mmol) of a 1.6M solution of butyllithium in hexanes. After stirring at this temperature for 20 min, 5 g (22.3 mmol) of 2,4,5-trifluorobenzyl bromide in 20 mL of tetrahydrofuran was added and stirring was continued for 3 h before warming the reaction to ambient temperature. The reaction was quenched with water, concentrated in vacuo, and extracted with ethyl acetate. The combined organic phase was washed with brine, dried, and concentrated in vacuo. Purification by flash chromatography (silica gel, 0-5% ethyl acetate in hexanes) afforded the title compound.

reactant | (2S)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | COC=1[C@@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | butyllithium | C(CCC)[Li]
reactant | 2,4,5-trifluorobenzyl bromide | 22.3 mmol, 5 g | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2S,5R)-2,5-Dihydro-3,6-dimethoxy-2-isopropyl-5-(2,4,5-trifluorobenzyl)pyrazine | COC=1[C@@H](N=C([C@H](N1)CC1=C(C=C(C(=C1)F)F)F)OC)C(C)C | C16H19F3N2O2
